US06166006
In 1N sodium hydroxide (13.0 ml) and THF:ethanol (1:1, 50 ml) was dissolved ethyl 7-bromo-1-formyl-2,3-dihydro-1-benzazepine-4-carboxylate (2.77 g), and the mixture was stirred at room temperature for 15 hours. To the mixture was added 1N hydrochloric acid (12.5 ml), and the mixture was concentrated. To the residue was added water (200 ml), and the mixture was adjusted to pH 2 with 1N hydrochloric acid. The mixture was extracted with ethyl acetate(300 ml×3), and the organic layer was dried with magnesium sulfate. The solvent was evaporated under reduced pressure to give 7-bromo-1-formyl-2,3-dihydro-1-benzazepine-4-carboxylic acid (2.52 g, 100%).

reactant | ethyl 7-bromo-1-formyl-2,3-dihydro-1-benzazepine-4-carboxylate | 2.77 g | BrC=1C=CC2=C(C=C(CCN2C=O)C(=O)OCC)C1 | C14H14BrNO3
reactant | hydrochloric acid | 1N, 12.5 ml | Cl | ClH
solvent | sodium hydroxide | 1N, 13.0 ml | [OH-].[Na+]
solvent | THF ethanol | 50 ml | C1CCOC1.C(C)O
product | 7-bromo-1-formyl-2,3-dihydro-1-benzazepine-4-carboxylic acid | 2.52 g, 100% | BrC=1C=CC2=C(C=C(CCN2C=O)C(=O)O)C1 | C12H10BrNO3
